US05629406
0.15 ml of a 1N aqueous solution of lithium hydroxide was added to a solution of 30 mg (0.13 mmol) of ethyl 4-(N,N-dimethylamino)phenoxyacetate (prepared as described in Preparation 18) in 1 ml of methanol, and the mixture was stirred at room temperature for 1 hour. At the end of this time, the solvent was removed by distillation under reduced pressure, the resulting residue was mixed with benzene and the mixture was dehydrated by azeotropic distillation. This operation was repeated a further time, and then the residue was dried in vacuo for 2 hours, to give 26 mg of lithium 4-(N,N-dimethylamino)phenoxyacetate.

reactant | lithium hydroxide | [OH-].[Li+]
reactant | ethyl 4-(N,N-dimethylamino)phenoxyacetate | 0.13 mmol, 30 mg | CN(C)C1=CC=C(OCC(=O)OCC)C=C1 | C12H17NO3
solvent | methanol | 1 ml | CO | CH4O
product | lithium 4-(N,N-dimethylamino)phenoxyacetate | 26 mg | CN(C)C1=CC=C(OCC(=O)[O-])C=C1.[Li+] | InChI=1S/C10H13NO3.Li/c1-11(2)8-3-5-9(6-4-8)14-7-10(12)13;/h3-6H,7H2,1-2H3,(H,12,13);/q;+1/p-1
